Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dizziness, lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo M w/ PMH of HTN, obesity s/p gastric 
bypass (___), gastritis, iron deficiency anemia, OSA, who 
presents from PCP with ___ symptomatic bradycardia, 
lightheadness and ___.

Patient reports increased lethargy and lightheadedness for the 
past month. He has noted that when he stands, he feels more 
lightheaded and dizzy. He denies falling, he denies hitting his 
head. He has also noticed more muscle cramping, where his 
fingers flex. He has been taking his wife's flexeril for the 
symptomatic cramping, which helps him sleep. He has been taking 
it for several months. 

He works as a ___, and he was working outside all day 
for the past two days. Today, he reports worsening dizziness 
every time that he stands up. He exercised on a treadmill this 
morning and walked 4 miles without chest pain. He could not 
raise his HR > 96, and he did not feel right. He presented to 
his PCP today and his systolic BP was 85 mm Hg and he was 
bradycardic to 54. He was found to have new systolic murmur and 
a questionable inferior ischemia on ECG. He denies fevers, 
blurry vision, double vision, headaches, dyspnea, CP, abdominal 
pain, nausea, vomiting, melena, hematochezia, lower leg 
swelling.

In the ED, initial VS were 97.9 48 ___ 100% RA.  
Exam notable for bradycardia, III/IV systolic ejection murmur.  
Labs showed  WBC 9.2, Hb 12.3, Platelets 236, Cr 2.2 
CXR was normal
Received 1L IVF  

Decision was made to admit to medicine for further management of 
___ and bradycardia. He reports some numbness and tingling on 
the lateral part of his left foot, which has been going on for 
over a year and is secondary to his disk herniation. 

On arrival to the floor, patient verifies the above history. He 
denies orthopnea, trouble urinating. He does have dogs, and he 
did find a tick on one of his dogs recently. He endorsed a rash 
on his right arm that "looked like fleas" bit him. This rash was 
not bothersome to him, and it resolved. 
 
Past Medical History:
- Herniated disk at S1
- Hypertension
- Iron deficiency anemia
- history of nephrolithiasis
- OSA
- Gastritis
- s/p gastric bypass surgery in ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS: 97.9PO 105 / 64L Lying 60 16 96 Ra
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, ___ holosystolic murmur best auscultated at 
apex of the heart  
LUNGS: CTAB,
ABDOMEN: obese, well-healed surgical scar, +BS, nontender in all 
quadrants, no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strength in tact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
======================
VS: 97.2PO 146 / 73 56 18 97 Ra
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, ___ holosystolic murmur best auscultated at 
base of the heart  
LUNGS: CTAB
ABDOMEN: obese, well-healed surgical scar, +BS, nontender in all 
quadrants, no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strength in tact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 01:00PM BLOOD WBC-9.2 RBC-4.61# Hgb-12.3*# Hct-39.0* 
MCV-85 MCH-26.7 MCHC-31.5* RDW-14.8 RDWSD-44.6 Plt ___
___ 01:00PM BLOOD Neuts-66.1 ___ Monos-7.6 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-6.11* AbsLymp-2.25 AbsMono-0.70 
AbsEos-0.10 AbsBaso-0.05
___ 01:00PM BLOOD ___ PTT-26.7 ___
___ 01:00PM BLOOD Glucose-98 UreaN-34* Creat-2.2*# Na-136 
K-5.3* Cl-104 HCO3-24 AnGap-13
___ 01:00PM BLOOD ALT-16 AST-22 LD(LDH)-192 CK(CPK)-272 
AlkPhos-81 TotBili-0.4
___ 01:00PM BLOOD cTropnT-<0.01 proBNP-372*
___ 01:00PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.9 Mg-2.5 
Iron-91
___ 01:00PM BLOOD calTIBC-410 VitB12-1073* Folate-9 
Ferritn-29* TRF-315
___ 01:00PM BLOOD TSH-1.9
___ 07:05AM BLOOD Cortsol-9.0
___ 01:00PM BLOOD Lithium-<0.1*
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LAB RESULTS
====================
___ 07:05AM BLOOD WBC-6.4 RBC-4.65 Hgb-12.1* Hct-40.0 
MCV-86 MCH-26.0 MCHC-30.3* RDW-15.1 RDWSD-46.1 Plt ___
___ 06:40AM BLOOD Glucose-106* UreaN-16 Creat-1.1 Na-139 
K-5.0 Cl-105 HCO3-21* AnGap-18

IMAGING/STUDIES
==============
___ CXR: No acute intrathoracic procese

___ Echo:
The left atrial volume index is normal. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened. There is no 
valvular aortic stenosis. The increased transaortic velocity is 
likely related to high cardiac output. No aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. Mild 
(1+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Aortic valve sclerosis. Mild mitral regurgitation. 

Compared with the report of the prior study (images unavailable 
for review) of ___, aortic sclerosis is seen and may 
account for the systolic murmur. The other findings are similar. 


MICROBIOLOGY
============
___ Lyme test: negative
 
Brief Hospital Course:
The patient is a ___ yo M w/ PMH of HTN, obesity s/p gastric 
bypass (___), gastritis, iron deficiency anemia, OSA, who 
presented from PCP with bradycardia, dizziness, heart murmur, 
and ___. The dizziness and ___ resolved with 2L IVF. He was 
monitored on telemetry. His bradycardia remained sinus, and 
increased appropriately with activity. An Echo showed mild 
aortic sclerosis, which can cause the heart murmur. He remained 
hemodynamically stable, and was discharged. 

#Bradycardia
#Systolic Heart murmur
Patient presented with bradycardia with HRs in ___. Heart 
rates respond appropriately with activity. Orthostatic vital 
signs were negative. EKG not concerning for any ischemia, shows 
sinus bradycardia. Troponin negative. Serum tox negative. Urine 
tox negative. TSH normal. BNP only mildly elevated at 372. 
Lithium not elevated. Echo showed aortic sclerosis, which could 
cause the murmur. Telemetry showed some PACs but otherwise sinus 
bradycardia. Lyme titer still pending at time of discharge, and 
came back negative. 

___
The patient's baseline Cr is 0.8. His Cr on presentation was 
2.2. He received 2L of IVF. Likely pre-renal in the setting of 
hypovolemia and Lisinopril use. FeNa of 0.9% suggesting 
pre-renal etiology. CK normal. ___ responded to 2L IVF. His 
lisinopril was held at discharge. Consider starting an alternate 
anti-hypertensive like amlodipine. 

# Dizziness
Likely secondary to hypovolemia as this resolved with IV fluids. 
Orthostatic vital signs were negative. 

#Muscle cramping
Patient reported several weeks of muscle cramping relieved by 
flexeril. Electrolytes within normal limits. Likely in setting 
of dehydration. CK normal. Resolved with IVF.

#Iron Deficiency Anemia
#S/p gastric bypass
#Anastomotic ulcer
Patient is s/p gastric bypass surgery in ___. He was found to 
be iron deficient in ___ and received IV iron infusions. EGD in 
___ showed large anastamotic ulcer, and patient was started on 
pantoprazole. After 4 weeks, a repeat EGD showed resolution of 
the ulcer, and he stopped taking pantoprazole. B12 check in 
___ was within normal limits. Corrected reticulocyte index is 
1.1, which suggest that the bone marrow is not responding 
appropriately to anemia. Folate and B12 are normal. Iron was 
normal at 91. Ferritin mildly low at 29. TIBC and Transferrin 
were normal.

TRANSITIONAL ISSUES
===================
- Lisinopril held at discharge because of ___. Consider starting 
an alternate antihypertensive like amlodipine. 
- Although iron levels were normal, ferritin levels were low. 
Patient may benefit from repeat iron studies in ___ months. 

#CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you are told to do so by your 
primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Dizziness
- ___
- Hypovolemia

Secondary Diagnosis:
- Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
=================================
- You were sent to the hospital by your primary care doctor 
because of low heart rate and low blood pressure.

What did we do for you?
=======================
- We gave you IV fluids, and your dizziness and muscle cramping 
improved. 
- You had an ultrasound of your heart (echocardiogram). It 
showed scarring around one of the valves of your heart (aortic 
sclerosis), which can cause a heart murmur. 
- Your heart rates were monitored on a heart monitor. They were 
low, but they increased into the normal range when you walked 
around. 

What do you need to do?
=======================
- It is very important that you follow-up with your primary care 
doctor ___ information below).
- STOP taking lisinopril until you follow-up with your primary 
care doctor
- Drink a lot of fluids. Drink as you are thirsty to make sure 
that you don't become too dehydrated. 

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team. 
 
Followup Instructions:
___